Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][Cl:4].[NH2:5][c:6]1[cH:7][cH:8][cH:9][c:10]([N+:11](=[O:12])[O-:13])[c:14]1[OH:15]>>[C:1](=[O:2])([CH2:3][Cl:4])[NH:5][c:6]1[cH:7][cH:8][cH:9][c:10]([N+:11](=[O:12])[O-:13])[c:14]1[OH:15],[NH2:5][c:6]1[cH:7][cH:8][cH:9][c:10]([N+:11](=[O:12])[OH:13])[c:14]1[OH:15].[OH:101][C:1](=[O:2])[CH2:3][Cl:4].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][Cl:4])[NH:5][c:6]1[cH:7][cH:8][cH:9][c:10]([N+:11](=[O:12])[OH:13])[c:14]1[OH:15],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (5, 1), ([1, 2], 2), (303, 5.1), ([5.1, 5], 5), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CS(=O)(=O)O[CH2:1][CH2:2][CH2:3][C:4]#[C:5][c:6]1[cH:7][cH:8][c:9]([C:10]#[N:11])[cH:12][cH:13]1.[N-:14]=[N+:15]=[N-:16]>>[CH2:1]([CH2:2][CH2:3][C:4]#[C:5][c:6]1[cH:7][cH:8][c:9]([C:10]#[N:11])[cH:12][cH:13]1)[N:14]=[N+:15]=[N-:16],CS(=O)(=O)[O:101][CH2:1][CH2:2][CH2:3][C:4]#[C:5][c:6]1[cH:7][cH:8][c:9]([C:10]#[N:11])[cH:12][cH:13]1.[N-:14]=[N+:15]=[N-:16]>>[CH2:1]([CH2:2][CH2:3][C:4]#[C:5][c:6]1[cH:7][cH:8][c:9]([C:10]#[N:11])[cH:12][cH:13]1)[N:14]=[N+:15]=[N-:16],SN2,"[(14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][C:3]1([NH:4][C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13][CH2:14]1)[N:15]1[CH2:16][CH:17]([O:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][cH:25]2)[CH2:26]1>>[CH2:1]([CH2:2][C:3]1([NH:4][C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13][CH2:14]1)[N:15]1[CH2:16][CH:17]([O:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][cH:25]2)[CH2:26]1,[O:101]=[C:1]([CH2:2][C:3]1([NH:4][C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13][CH2:14]1)[N:15]1[CH2:16][CH:17]([O:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][cH:25]2)[CH2:26]1.[AlH4-:301].[AlH4-:302]>>[CH2:1]([CH2:2][C:3]1([NH:4][C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][CH2:13][CH2:14]1)[N:15]1[CH2:16][CH:17]([O:18][c:19]2[cH:20][cH:21][c:22]([Cl:23])[cH:24][cH:25]2)[CH2:26]1,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (15, [15, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 15], 15)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]([C@H:2]([C:3]([NH:4][C@@H:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[N:11]1[c:12]2[n:13][cH:14][cH:15][cH:16][c:17]2[CH2:18][C@H:19]1[CH2:20][NH:21][C:22](=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)=[O:30])[CH3:31])[CH3:32]>>[NH:1]([C@H:2]([C:3]([NH:4][C@@H:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[N:11]1[c:12]2[n:13][cH:14][cH:15][cH:16][c:17]2[CH2:18][C@H:19]1[CH2:20][NH:21][C:22](=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)=[O:30])[CH3:31])[CH3:32],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]([C@H:2]([C:3]([NH:4][C@@H:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[N:11]1[c:12]2[n:13][cH:14][cH:15][cH:16][c:17]2[CH2:18][C@H:19]1[CH2:20][NH:21][C:22](=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)=[O:30])[CH3:31])[CH3:32].[H+:301]>>[NH:1]([C@H:2]([C:3]([NH:4][C@@H:5]([CH:6]([CH3:7])[CH3:8])[C:9](=[O:10])[N:11]1[c:12]2[n:13][cH:14][cH:15][cH:16][c:17]2[CH2:18][C@H:19]1[CH2:20][NH:21][C:22](=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)=[O:30])[CH3:31])[CH3:32],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]2[cH:9][c:10](-[c:11]3[cH:12][cH:13][c:14]([Cl:15])[cH:16][c:17]3[Cl:18])[o:19][c:20]12>>[CH2:1]([OH:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]2[cH:9][c:10](-[c:11]3[cH:12][cH:13][c:14]([Cl:15])[cH:16][c:17]3[Cl:18])[o:19][c:20]12,C[O:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]2[cH:9][c:10](-[c:11]3[cH:12][cH:13][c:14]([Cl:15])[cH:16][c:17]3[Cl:18])[o:19][c:20]12.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]2[cH:9][c:10](-[c:11]3[cH:12][cH:13][c:14]([Cl:15])[cH:16][c:17]3[Cl:18])[o:19][c:20]12,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
